US04370328
6,7-Dimethoxyphthalazin-1-one (20.6 g.) was heated under reflux with phosphoryl chloride (200 ml.) for 6 hours then cooled to room temperature and the excess phosphoryl chloride removed under reduced pressure. The resultant brown solid was suspended in acetone (150 ml.) and poured onto cold (5° C.) concentrated ammonium hydroxide (200 ml.). The crude product was filtered, washed with water (200 ml.) then petroleum ether (200 ml.). The pale yellow solid was dried (20 g.), dissolved in the minimum volume of chloroform and precipitated with excess petroleum ether, after which it was recovered by filtration, washed again with petroleum ether (100 ml.) and dried to give 1-chloro-6,7-dimethoxyphthalazine (13 g.), m.p. 195°-197° C. with decomposition.

reactant | 6,7-Dimethoxyphthalazin-1-one | 20.6 g | COC=1C=C2C=NNC(C2=CC1OC)=O | C10H10N2O3
reactant | phosphoryl chloride | 200 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-6,7-dimethoxyphthalazine | 13 g | ClC1=NN=CC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
